US07320992B2
To a stirred solution of 2-methyl-2-(4-nitro-phenyl)-propan-1-ol (prepared by the method described in WO02/66470) (200 mg, 1 mmol) in THF (15 mL) was added NaH (43 mg, 60% in oil) at 0° C. The mixture was stirred at 0° C. for 20 min, MeI (0.22 mL, 1.5 mmol) was added and the mixture was stirred for 2 h at 0° C. then overnight at RT. H2O was added and the mixture was extracted with EtOAc. The organic phase was dried, filtered and evaporated to give 1-(2-methoxy-1,1-dimethyl-ethyl)-4-nitro-benzene.

reactant | 2-methyl-2-(4-nitro-phenyl)-propan-1-ol | CC(CO)(C)C1=CC=C(C=C1)[N+](=O)[O-] | C10H13NO3
reactant | NaH | 43 mg | [H-].[Na+]
reactant | MeI | 1.5 mmol, 0.22 mL | CI | CH3I
reactant | H2O | O | H2O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 1-(2-methoxy-1,1-dimethyl-ethyl)-4-nitro-benzene | COCC(C)(C)C1=CC=C(C=C1)[N+](=O)[O-] | C11H15NO3
